US07939665B2
Triethylsilyl chloride (TES-Cl, 1.30 g) is added into a mixture of dihydrolysergol (1.47 g), triethylamine (1.74 g) and DMAP (0.14 g) in N,N-dimethylformamide (10 mL) and the mixture is stirred at room temperature. After complete reaction, the mixture is cooled and water (15 mL) is added. The resulted suspension is stirred for an additional 2 h and then filtered and washed with water. The product is dried and recrystallized from dichloromethane/heptanes to give 1.47 g of 8β-(trimethylsiloxymethyl)-9,10-didehydro-6-methyl-ergoline in 70% yield.

reactant | Triethylsilyl chloride | 1.30 g | C(C)[Si](CC)(CC)Cl | C6H15ClSi
reactant | dihydrolysergol | 1.47 g | OC[C@H]1CN(C)[C@@H]2CC3CNC4=CC=CC(C2=C1)=C34 | C16H20N2O
reactant | triethylamine | 1.74 g | C(C)N(CC)CC | C6H15N
reactant | water | 15 mL | O | H2O
catalyst | DMAP | 0.14 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 8β-(trimethylsiloxymethyl)-9,10-didehydro-6-methyl-ergoline | 1.47 g, 70% yield | C[Si](OC[C@H]1CN([C@@H]2CC3=CNC4=CC=CC(C2=C1)=C34)C)(C)C | C19H26N2OSi
